US06747023B1
N-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazin-2-yl]carbonyl]methanesulfonamide hydrochloride
In tetrahydrofuran (30 ml) was dissolved 2-carbamoyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[4,5-c]pyridin-2-yl)carbonyl]piperazine (300 mg), followed by the addition of a 0.5 mole toluene solution (1.12 ml) of potassium bis(trimethylsilyl)amide. The resulting mixture was stirred for 10 minutes under ice cooling. After the addition of methanesulfonyl chloride (0.04 ml), the resulting mixture was warmed up to room temperature and stirred for 1 hour. The reaction mixture was concentrated under reduced pressure. Methylene chloride was added to the residue and the resulting mixture was washed once with water and once with saturated aqueous NaCl solution. The organic layer thus extracted was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride:methanol=100:0→100:3), whereby colorless foam was obtained. The resulting foam was suspended in 1N hydrochloric acid (1 ml). The resulting suspension was concentrated under reduced pressure, whereby the title compound (96 mg) was obtained as pale yellow foam.

reactant | 2-carbamoyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[4,5-c]pyridin-2-yl)carbonyl]piperazine | 300 mg | C(N)(=O)C1N(CCN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)C=1SC2=C(CNC(C2)C)N1 | C23H24ClN5O4S2
reactant | toluene | 0.5 mole, 1.12 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methanesulfonyl chloride | 0.04 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1N, 1 ml | Cl | ClH
product | N-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazin-2-yl]carbonyl]methanesulfonamide hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(=O)NS(=O)(=O)C | InChI=1S/C24H26ClN5O6S3.ClH/c1-14-9-19-21(12-26-14)37-23(27-19)24(32)30-8-7-29(13-20(30)22(31)28-38(2,33)34)39(35,36)18-6-4-15-10-17(25)5-3-16(15)11-18;/h3-6,10-11,14,20,26H,7-9,12-13H2,1-2H3,(H,28,31);1H
